US07399775B2
2-[1-[(4-Chlorophenyl)sulfonyl]cycloheptyl-1,4-difluorobenzene
In toluene (5 ml) was dissolved 7-[(4-chlorophenyl)sulfonyl]-7-(2,5-difluorophenyl)-1-heptanol (200 mg, 0.496 mmol), followed by the addition of cyanomethylenetri-n-butylphosphorane (400 mg, 1.66 mmol). Under an argon atmosphere, the resulting mixture was heated under reflux for 14 hours. After the reaction mixture was allowed to cool down, the residue obtained by concentrating the reaction mixture under reduced pressure was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=10:1 eluate was concentrated under reduced pressure to give a white solid. The white solid was washed with hexane, whereby the title compound (111 mg, 0.288 mmol, 58%) was obtained as a white powder.

reactant | 7-[(4-chlorophenyl)sulfonyl]-7-(2,5-difluorophenyl)-1-heptanol | 0.496 mmol, 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCCCO)C1=C(C=CC(=C1)F)F | C19H21ClF2O3S
reactant | cyanomethylenetri-n-butylphosphorane | 1.66 mmol, 400 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 1-[(4-Chlorophenyl)sulfonyl]cycloheptyl-1,4-difluorobenzene | 0.288 mmol, 111 mg, 58% | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCCCCC1)C1=C(C=CC(=C1)F)F | C19H19ClF2O2S
